*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Cree SiC MOSFET C3M0160120D Spice Library
****	Version 1.0 Date: 05-28-2020
****
***********************************************************
****	Revision record
****	Version 1	Initial Release datasheet Rev A 04-2020
****
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************

.subckt C3M0160120D d g s Tj Tc
.param p11 = -8
.param p12 = 19
.param Rgint = 8

R1022	Tjc	0	1E6
E1022	Tjc	0 	value {limit(v(Tj),-55,175)}

R100	gk	s1	1E6
E100	gk	s1 	value {limit(v(g1,s1),-8,19)}

e33		NET3	0	Value {12.22u*V(Tjc)**2-6.554m*V(Tjc)+2.8542}
R_cc		NET3	0 	1E6

xgmos	d3 d1 gk s1 Tjc NET3 s gmos_C3M0160120D

RS		s	sa	1.788m
Ls 		sa	s1	2.863n
*R_Ls		sa	s1	5

R_g 		g1	g2	{Rgint}
RG		g	ga	29.53m
Lg 		ga	g2	6.4815n

Rd		d	da	64.94u
Ld 		da	d3  	3.848n
R_Ld		da	d3	3

Ed		Id	0	value {I(Vdrain_s)}
Rdd		Id	0	1E6

vdrain_s	d3	d1	0
Gheat		0	Tj	value {abs((V(d1,s1)*v(Id)))+abs((V(g1,g2)**2/Rgint))}
xCGD		d3	g1	cgdmos_C3M0160120D
CGS		g1	s1	629p

e15		dd1	d1	value {
+				if (V(gk,s1)>V(NET3),
+					Limit(((-91.17u*V(Tjc)**3+19.15m*V(Tjc)**2+0.8444*V(Tjc)-276.654)*(V(gk,s1)**2)+
+					(2.259m*V(Tjc)**3-0.4744*V(Tjc)**2-20.934*V(Tj)+6909.53)*v(gk,s1)+
+					(-10.39m*V(Tjc)**3+2.139*V(Tjc)**2+97.136*V(Tjc)-30350.4))/1000,-2.6,15)
+					,
+					0
+					)
+					}

D1		s1	dd1	bodydiode_C3M0160120D
xCds		d3	s1	cdsmos_C3M0160120D
R_DS1		d1	s1	0.8G

R0 N1 Tj 207.251m
R1 N2 N1 575.759m
R2 N3 N2 267.484m
R3 Tc N3 242.506m

C0 Tj 0 498.702u
C1 N1 0 2.4513m
C2 N2 0 8.2577m
C3 N3 0 78.7482m

.ends C3M0160120D

*****************************************

.subckt gmos_C3M0160120D d3 d1 gk s1 Tjc NET3 s

e1		NET1	0	Value {
+					if (V(Tjc)>150,
+					Limit(((46.1u*V(Tjc)**2+736.2u*V(Tjc)-1.055)*(V(gk,s1)**4)+
+					(-2.406m*V(Tjc)**2-49.52m*V(Tjc)+54.703)*(V(gk,s1)**3)+
+					(45.62m*V(Tjc)**2+1.119*V(Tjc)-1014.014)*(V(gk,s1)**2)+
+					(-0.3672*V(Tjc)**2-10.696*V(Tjc)+7948.838)*v(gk,s1)+
+					(1.015*V(Tjc)**2+41.622*V(Tjc)-21267.916))/1000,0,52)
+					,
+					Limit(((-13.99u*V(Tjc)**2+6.445m*V(Tjc)-0.5596)*(V(gk,s1)**4)+
+					(860.6u*V(Tjc)**2-0.3598*V(Tjc)+27.76)*(V(gk,s1)**3)+
+					(-19.29m*V(Tjc)**2+7.286*V(Tjc)-478.49)*(V(gk,s1)**2)+
+					(0.185*V(Tjc)**2-63.2*V(Tjc)+3389.294)*v(gk,s1)+
+					(-0.644*V(Tjc)**2+199.299*V(Tjc)-7574.953))/1000,0,52)
+					)
+					}
R_a		NET1	0 	1E6


*e9	P9	0	value {1.8}
e9	P9	0	value {Limit(((-40.07u*V(Tjc)**3+5.304m*V(Tjc)**2+0.5215*V(Tjc)-32.73)*(V(gk,s1)**2)+
+					(1.012m*V(Tjc)**3-0.1378*V(Tjc)**2-12.01*V(Tjc)+725.52)*v(gk,s1)+
+					(-6.174m*V(Tjc)**3+0.8805*V(Tjc)**2+61.521*V(Tjc)-3342))/1000,0,5)}
R_s	P9	0 	1E6

e2		NET2	0	Value {15.35m*V(gk,s1)+371.85m}
R_B		NET2	0 	1E6


e6		NET6	0	value {0}
R_f		NET6	0 	1E6

e5		NET5	0	value {
+					if (V(Tjc)<=26,
+				Limit(((109.29n*V(Tjc)**2-29.539u*V(Tjc)-3.9572m)*V(gk,s1)**5+
+				(-6.722u*V(Tjc)**2+1.328m*V(Tjc)+0.26799)*V(gk,s1)**4+
+				(143.683u*V(Tjc)**2-16.465m*V(Tjc)-6.626)*V(gk,s1)**3+
+				(-1.159m*V(Tjc)**2-13.66m*V(Tjc)+70.826)*V(gk,s1)**2+
+				(1.6973m*V(Tjc)**2+1.042*V(Tjc)-301.715)*v(gk,s1)+
+				(5.6715m*V(Tjc)**2-2.0711*V(Tjc)+569.633))
+				/9200,0.0002,1)
+					,
+				Limit(((-246.79n*V(Tjc)**2+80.208u*V(Tjc)-6.4784m)*V(gk,s1)**5+
+				(18.634u*V(Tjc)**2-5.9585m*V(Tjc)+0.43435)*V(gk,s1)**4+
+				(-566.45u*V(Tjc)**2+0.17326*V(Tjc)-10.925)*V(gk,s1)**3+
+				(8.5429m*V(Tjc)**2-2.4253*V(Tjc)+125.05)*V(gk,s1)**2+
+				(-61.952m*V(Tjc)**2+15.85*V(Tjc)-632.14)*v(gk,s1)+
+				(0.15986*V(Tjc)**2-36.122*V(Tjc)+1324.5))
*+				/9850,0.002,1)
+				/(-0.27467*v(Tjc)**2+53.267*v(Tjc)+8040),0.0001,1)
+					)
+					}
R_e		NET5	0 	1E6


e10		NET10	0	Value {Limit((-3.7557u*V(Tjc)**2+383.34u*V(Tjc)+87.536m),0,1)}
R_K		NET10	0	1E6

e_p8	P8	0	Value {Limit((1.266u*V(Tjc)**2-74.52u*V(Tjc)+26.07m),0.0005,0.18)}
R_R	P8	0 	1E6

R_T	NET3	0 	1E6
R_V	gk	s 	1E6


********************************
G1 d1 s1 value {
+	if(V(s1,d3)<=0,
+		0
+		,
+		if (V(gk,s1)<v(NET3) ,
+		0
+		,
+		-((((v(NET5)+v(NET6))*(v(gk,s1)-V(NET3))))*(1+v(P9)*v(s1,d3))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(s1,d3)*((1+exp(-v(NET10)*v(s1,d3)))**v(NET1))))))**2)))
+		)
+			)
+			}

G2 d1 s1 value {
+	if(V(d3,s1)<=0,
+		0
+		,
+		if (V(gk,s1)<v(NET3) ,
+		0
+		,
+		(((v(NET5))*(v(gk,s1)-V(NET3))))*(1+v(P8)*v(d3,s1))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(d3,s1)*((1+exp(-v(NET10)*v(d3,s1)))**v(NET1))))))**2))
+		)
+			)
+			}

.ends gmos_C3M0160120D

****************************************
.model bodydiode_C3M0160120D d(is=200n bv=1529 EG=4.3 n=9.5
+	rs=0.1  trs1=-0.0025  trs2=1u Tnom=25
+	tt=7n ibv=500u Xti=20 level=1)
****************************************

.subckt cgdmos_C3M0160120D d3 g1
.param k1=215p
.param k2=0.475
.param ka=48
.param kb=0.3
.param kc=4
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,220))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**(-k2)
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1E-4
.ends cgdmos_C3M0160120D

.subckt cdsmos_C3M0160120D d3 s1
.param Cjo = 517p
.param Vj  = 4.4365
.param M   = 0.55

G12 d1 s1 value {
+	if(V(d3,s1)>0,
+		(Cjo/(1+(limit(v(d3,s1),0,510)/Vj)**M))*ddt(v(d3,s1))
+		,
+		0
+			)
+			}
R_CDS d1 d3 1E-4

.ends cdsmos_C3M0160120D









